US07989461B2
Preparation of 2-fluoro-N-(3-isopropoxyphenyl)-4-methyl-3-(2-(methylamino)-quinazolin-6-yl)benzamide
A mixture of 2-fluoro-3-iodo-N-(3-isopropoxyphenyl)-4-methylbenzamide (630 mg, 1525 μmol), N-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinazolin-2-amine (522 mg, 1830 μmol) and sodium carbonate (2 M aqueous solution) (1525 μL, 3049 μmol) in DME (25 mL) was flushed with nitrogen and then tetrakis(triphenylphosphine)palladium (0) (176 mg, 152 μmol) was added. The mixture was refluxed for 24 h and then cooled to RT. Solvent was removed in vacuo and the residue was purified by flash chromatography eluting with EtOAc/hexane (25-60%) to give the title compound (387 mg, 57%). MS (M+H)+ 445.

reactant | 2-fluoro-3-iodo-N-(3-isopropoxyphenyl)-4-methylbenzamide | 1525 μmol, 630 mg | FC1=C(C(=O)NC2=CC(=CC=C2)OC(C)C)C=CC(=C1I)C | C17H17FINO2
reactant | N-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinazolin-2-amine | 1830 μmol, 522 mg | CNC1=NC2=CC=C(C=C2C=N1)B1OC(C(O1)(C)C)(C)C | C15H20BN3O2
reactant | sodium carbonate | 3049 μmol, 2 M, 1525 μL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | 25 mL | COCCOC | C4H10O2
catalyst | tris(dibenzylideneacetone)dipalladium | 152 μmol, 176 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-fluoro-N-(3-isopropoxyphenyl)-4-methyl-3-(2-(methylamino)-quinazolin-6-yl)benzamide | 387 mg, 57% | FC1=C(C(=O)NC2=CC(=CC=C2)OC(C)C)C=CC(=C1C=1C=C2C=NC(=NC2=CC1)NC)C | C26H25FN4O2
